US07053214B2
Synthesis of 4-(4{[(9H-Fluoren-9-ylmethoxy)carbonyl]amino}phenyl)butanoic acid (26)
To a suspension of 4-(4-aminophenyl)butyric acid (3.0 g, 16.7 mmol) in 30 mL of saturated NaHCO3 was added Fmoc-Osu and 20 mL of THF. The mixture was stirred at room temperature overnight. After dilution with 1 N HCl, the product was extracted with ethyl acetate (3×100 mL). The combined extracts were washed with dilute HCl, brine, dried (Na2SO4) and concentrated to give a white solid 6.6 g (26) (98%). 1H NMR (500 MHz, CD3OD) δ 7.80 (m, 2H), 7.70 (m, 2H), 7.39 (m, 3H), 7.32 (m, 4H), 7.90 (m, 2H), 4.46 (m, 2H), 4.27 (t, J=7.0 Hz, 1H), 2.60 (t, J=8.0 Hz, 2H), 2.28 (t, J=7.0 Hz, 2H), 1.87 (m, 2H); MS (ESI+) m/z 424.19 (M+Na+).

reactant | 4-(4-aminophenyl)butyric acid | 16.7 mmol, 3.0 g | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
reactant | Fmoc-Osu | C1CC(=O)N(C1=O)OC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24 | C19H15NO5
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
product | 4-(4{[(9H-Fluoren-9-ylmethoxy)carbonyl]amino}phenyl)butanoic acid | 6.6 g, 98% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1=CC=C(C=C1)CCCC(=O)O | C25H23NO4
